US07696213B2
6-Bromo-8-cyclopentyl-2-(2-hydroxy-2-methylpropylamino)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one
To a solution of 6-bromo-8-cyclopentyl-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one (600 mg, 1.62 mmol) and 1-amino-2-methylpropan-2-ol (294 mg, 2.34 mmol) in dioxane (6 mL) was added triethylamine (1.2 mL, 8.6 mmol). The mixture was then heated at 110° C. in a sealed tube for 1 h. The solution was poured into brine and extracted with ethyl acetate. The organic was dried (anhydrous sodium sulfate), filtered and concentrated to dryness. The crude product was purified by silica gel flash chromatography to give the title compound as a solid (565 mg, 88%).

reactant | 6-bromo-8-cyclopentyl-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 1.62 mmol, 600 mg | BrC1=CC2=C(N=C(N=C2C)S(=O)C)N(C1=O)C1CCCC1 | C14H16BrN3O2S
reactant | 1-amino-2-methylpropan-2-ol | 2.34 mmol, 294 mg | NCC(C)(O)C | C4H11NO
reactant | triethylamine | 8.6 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 6-Bromo-8-cyclopentyl-2-(2-hydroxy-2-methylpropylamino)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 565 mg, 88% | BrC1=CC2=C(N=C(N=C2C)NCC(C)(C)O)N(C1=O)C1CCCC1 | C17H23BrN4O2
